US08937069B2
Step 1: 6-Chloro-5-iodopyrazin-2-amine
A solution of 6-chloropyrazin-2-amine (10.0 g, 77 mmol) in DMSO (100 ml) was treated with 1-iodopyrrolidine-2,5-dione (20.84 g, 93 mmol). The reaction mixture was stirred at RT for 2 days and then added to water (800 ml). The pH was adjusted to pH 8-9 using a sat. NaHCO3 solution and the resulting suspension was filtered, washing with water (×3) and dried under vacuum to afford the titled compound as an orange solid;

reactant | 6-chloropyrazin-2-amine | 77 mmol, 10.0 g | ClC1=CN=CC(=N1)N | C4H4ClN3
reactant | 1-iodopyrrolidine-2,5-dione | 93 mmol, 20.84 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | water | 800 ml | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | 6-Chloro-5-iodopyrazin-2-amine | ClC1=C(N=CC(=N1)N)I | C4H3ClIN3
